US05641785
10.2. 7-Hydroxy-3,3a,4,5-tetrahydro-1H-oxazolo[3,4-a]quinolin-1-one
To a solution of 4.6 g (21 mmol) of 7-methoxy-3,3a,4,5-tetrahydro-1H-oxazolo[3,4-a]quinolin-1-one in 50 ml of dichloromethane are added dropwise, at 0° C., 4.0 ml (42 mmol) of boron tribromide. After one hour, the medium is hydrolyzed by addition of aqueous ammonia to the point of neutrality. The precipitate formed is then filtered off and dried under vacuum.

reactant | 7-methoxy-3,3a,4,5-tetrahydro-1H-oxazolo[3,4-a]quinolin-1-one | 21 mmol, 4.6 g | COC=1C=C2CCC3N(C2=CC1)C(OC3)=O | C12H13NO3
reactant | boron tribromide | 42 mmol, 4.0 ml | B(Br)(Br)Br | BBr3
reactant | ammonia | N | H3N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 7-Hydroxy-3,3a,4,5-tetrahydro-1H-oxazolo[3,4-a]quinolin-1-one | OC=1C=C2CCC3N(C2=CC1)C(OC3)=O | C11H11NO3
